US04996225
(c) 4-chloro-1,2-diphenyl-1-[4-[2-(N-methylamino)ethoxy]phenyl]1-butene (Z)
A mixture containing 41.0 g of (Z)-1,2-diphenyl-1-[4-[2-(N-methylamino)ethoxy]phenyl]-1-buten-4-ol hydrochloride, 57.4 g of triphenyl phosphine, 61.6 g of carbon tetrachloride and 500 ml of acetonitrile is refluxed for 1 h. On cooling the product crystallizes out and is collected for filtration. The yield of the hydrochloride is 25.3 g (59%) and m.p. 206°-8° C. The base is liberated from its salt by conventional means giving an oil.

reactant | (Z)-1,2-diphenyl-1-[4-[2-(N-methylamino)ethoxy]phenyl]-1-buten-4-ol hydrochloride | 41.0 g | Cl.C1(=CC=CC=C1)/C(=C(\CCO)/C1=CC=CC=C1)/C1=CC=C(C=C1)OCCNC
reactant | triphenyl phosphine | 57.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 61.6 g | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 4-chloro-1,2-diphenyl-1-[4-[2-(N-methylamino)ethoxy]phenyl]1-butene | ClCCC(=C(C1=CC=C(C=C1)OCCNC)C1=CC=CC=C1)C1=CC=CC=C1 | C25H26ClNO
